US05397798
A. 2-Amino-N-[2-(1H-imidazol-4-yl)ethyl]benzamide
The subtitled compound was prepared substantially in accordance with the method detailed in Example 6A using 5.55 g (0.05 mol) of 4-(2-aminoethyl)imidazole in 40 ml ethanol and 8.31 g (0.05 mol) of isatoic anhydride with the exception that after removing ethanol from the reaction solution the product was purified using column chromatography (500 ml dichloromethane; 2000 ml 9% methanol in dichloromethane, isocratic eluent). The fractions containing the desired product were combined and reduced to dryness under reduced pressure to provide a solid. This solid was recrystallized from diethyl ether to provide 1.65 g of the desired subtitled compound (m.p. 85°-87° C.).

reactant | 4-(2-aminoethyl)imidazole | 0.05 mol, 5.55 g | NCCC=1N=CNC1 | C5H9N3
reactant | isatoic anhydride | 0.05 mol, 8.31 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-Amino-N-[2-(1H-imidazol-4-yl)ethyl]benzamide | 1.65 g | NC1=C(C(=O)NCCC=2N=CNC2)C=CC=C1 | C12H14N4O
